US07179819B2
To a stirred solution of pentafluorophenyl ester of 3-methoxy-4-[N′-(2-fluorophenyl)ureido]phenylacetic acid (135 mg, 0.28 mmol) and ethyl 3-methoxy-4-(2-ethylaminoethoxy)benzoate (78 mg, 0.29 mmol) was added Et3 N (0.1 mL, 0.72 mmol), and the resulting mixture was stirred overnight. The mixture was diluted with EtOAc, washed successively with 0.5 N HCl, brine, dried over Na2SO4, and evaporated. The residue was purified by column chromatography on silica-gel with CHCl3-MeOH (50:1, v/v) as eluent to give 160 mg(q.y.) ethyl 3-methoxy-4-[2-[3-methoxy-4-[N′-(2-fluorophenyl)ureido]phenylacetyl]ethylaminoethoxy]benzoate as an oil. 1H-NMR (CDCl3) δ 1.13–1.23 (m, 3 H), 1.37–1.40 (m, 3 H), 2.90–3.89 (m, 12 H), 4.09–4.28 (m, 2 H), 4.33–4.39 (m, 2 H), 6.70–8.21 (series of m, total 12 H).

reactant | 3-methoxy-4-[N′-(2-fluorophenyl)ureido]phenylacetic acid | 0.28 mmol, 135 mg | COC=1C=C(C=CC1NC(=O)NC1=C(C=CC=C1)F)CC(=O)O | C16H15FN2O4
reactant | ethyl 3-methoxy-4-(2-ethylaminoethoxy)benzoate | 0.29 mmol, 78 mg | COC=1C=C(C(=O)OCC)C=CC1OCCNCC | C14H21NO4
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | ethyl 3-methoxy-4-[2-[3-methoxy-4-[N′-(2-fluorophenyl)ureido]phenylacetyl]ethylaminoethoxy]benzoate | 160 mg | COC=1C=C(C(=O)OCC)C=CC1OCCNCCC(CC1=CC(=C(C=C1)NC(=O)NC1=C(C=CC=C1)F)OC)=O | C30H34FN3O7
